US09422292B2
A disposable tube was charged with 4,4-dimethyl-4,5-dihydro-1H-benzo[b][1,4]diazepine-2(3H)-thione (600 mg, 2.91 mmol) and a stirbar. nBuOH (30 mL) was added, followed by acetohydrazide (431 mg, 5.82 mmol), and the solution was stirred at 130° C. overnight. The solution was concentrated with celite and purified by silica gel chromatography (eluting with methylene chloride/methanol/ammonium hydroxide) to yield 1,5,5-trimethyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine as an off-white amorphous solid (0.153 g, 0.67 mmol, 23%).

reactant | 4,4-dimethyl-4,5-dihydro-1H-benzo[b][1,4]diazepine-2(3H)-thione | 2.91 mmol, 600 mg | CC1(NC2=C(NC(C1)=S)C=CC=C2)C | C11H14N2S
reactant | acetohydrazide | 5.82 mmol, 431 mg | C(C)(=O)NN | C2H6N2O
solvent | nBuOH | 30 mL | C(CCC)O | C4H10O
product | 1,5,5-trimethyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine | 0.67 mmol, 0.153 g, 23% | CC1=NN=C2N1C1=C(NC(C2)(C)C)C=CC=C1 | C13H16N4
